### PR TITLE
feat: add `BitVec.(ssubOverflow, usubOverflow)` definitions and `BitVec.(ssubOverflow_eq, usubOverflow_eq)` 

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds SMT-LIB operators to detect overflow `BitVec.(usubOverflow, ssubOverflow)`, according to the [SMTLIB standard](https://github.com/SMT-LIB/SMT-LIB-2/blob/2.7/Theories/FixedSizeBitVectors.smt2), and the theorems proving equivalence of such definition with the `BitVec` library functions `BittVec.(usubOverflow_eq, ssubOverflow_eq)`. 

Co-authored by @bollu.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1299,6 +1299,42 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+
+theorem ssubOverflow_eq {w : Nat} (x y : BitVec w) :
+    ssubOverflow x y = ((!x.msb && y.msb && (x - y).msb) || (x.msb && !y.msb && !(x - y).msb)) := by
+  simp only [ssubOverflow]
+  rcases w with _|w
+  · revert x y; decide
+  · have := le_two_mul_toInt (x := x); have := two_mul_toInt_lt (x := x)
+    have := le_two_mul_toInt (x := y); have := two_mul_toInt_lt (x := y)
+    simp only [msb_eq_toInt, toInt_sub, Nat.add_one_sub_one, ge_iff_le]
+    have h₁ : (x.toInt - y.toInt < - 2 ^ w) ↔ (x.toInt < 0 ∧ 0 ≤ y.toInt ∧ 0 ≤ (x.toInt - y.toInt).bmod (2 ^ (w + 1))) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1313]: Consider extracting this out into an independent lemma?

```lean
theorem toInt_sub_toInt_lt_twoPow_iff
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1299,6 +1299,42 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+        simp only [show 0 ≤ x.toInt by omega, show y.toInt < 0 by omega, _root_.true_and]
+        rw [← Int.bmod_sub_cancel]
+        push_cast 
+        rw_mod_cast [Int.bmod_eq_self_of_le (by omega) (by omega)] 
+        omega 
+      · have := Int.bmod_neg_iff (x := x.toInt - y.toInt) (m := 2 ^ (w + 1))
+        push_cast at this 
+        omega
+    simp only [h₁, decide_and, h₂, ← decide_not, Int.not_lt]
+    simp only [bool_to_prop]
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1335]:
```suggestion
    simp [h₁, decide_and, h₂, ← decide_not, Int.not_lt, bool_to_prop]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1299,6 +1299,42 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+        omega 
+      · have := Int.bmod_neg_iff (x := x.toInt - y.toInt) (m := 2 ^ (w + 1))
+        push_cast at this
+        omega
+    have h₂ : (2 ^ w ≤ x.toInt - y.toInt) ↔ (0 ≤ x.toInt ∧ y.toInt < 0 ∧ (x.toInt - y.toInt).bmod (2 ^ (w + 1)) < 0) := by 
+      constructor 
+      · intros h 
+        simp only [show 0 ≤ x.toInt by omega, show y.toInt < 0 by omega, _root_.true_and]
+        rw [← Int.bmod_sub_cancel]
+        push_cast
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1328]: Can this be merged into `rw_mod_cast`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1299,6 +1299,42 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+  · revert x y; decide
+  · have := le_two_mul_toInt (x := x); have := two_mul_toInt_lt (x := x)
+    have := le_two_mul_toInt (x := y); have := two_mul_toInt_lt (x := y)
+    simp only [msb_eq_toInt, toInt_sub, Nat.add_one_sub_one, ge_iff_le]
+    have h₁ : (x.toInt - y.toInt < - 2 ^ w) ↔ (x.toInt < 0 ∧ 0 ≤ y.toInt ∧ 0 ≤ (x.toInt - y.toInt).bmod (2 ^ (w + 1))) := by 
+      constructor 
+      · intros h
+        simp only [show x.toInt < 0 by omega, show 0 ≤ y.toInt by omega, _root_.true_and]
+        rw [← Int.bmod_add_cancel]
+        rw_mod_cast [Int.bmod_eq_self_of_le (by omega) (by omega)]
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1318]: Can this be merged into a single `rw_mod_cast`?

File: src/Init/Data/BitVec/Basic.lean [hunk 5]
```diff
@@ -690,6 +690,21 @@ treating `x` and `y` as 2's complement signed bitvectors.
 def saddOverflow {w : Nat} (x y : BitVec w) : Bool :=
   (x.toInt + y.toInt ≥ 2 ^ (w - 1)) || (x.toInt + y.toInt < - 2 ^ (w - 1))
 
+/-- `usubOverflow x y` returns `true` if the subtraction of `x` and `y` results in *unsigned* overflow,
+treating `x` and `y` as 2's complement signed bitvectors.
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:694]:
```suggestion
/-- `usubOverflow x y` returns `true` if the subtraction of `x` and `y` results in *unsigned* overflow.
```

**Review by bollu — CHANGES_REQUESTED** [review]
I'm happy to LGTM after this round of changes :) Thanks for submitting the PR!

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1335]: this is not feasible, `bool_to_prop` needs to be on its own to avoid infinite recursion

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1299,6 +1299,27 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+    have := le_two_mul_toInt (x := x); have := two_mul_toInt_lt (x := x)
+    have := le_two_mul_toInt (x := y); have := two_mul_toInt_lt (x := y)
+    simp only [msb_eq_toInt, toInt_sub, Nat.add_one_sub_one, ge_iff_le]
+    have h₁ := Int.toInt_sub_toInt_lt_twoPow_iff (x := x.toInt) (y:= y.toInt) (k := 2 ^ w)
+              (by push_cast; omega) (by push_cast; omega) (by push_cast; omega) (by push_cast; omega)
+    have h₂ := Int.twoPow_le_toInt_sub_toInt_iff (x := x.toInt) (y:= y.toInt) (k := 2 ^ w)
+              (by push_cast; omega) (by push_cast; omega) (by push_cast; omega) (by push_cast; omega)
+    push_cast at h₁ h₂
+    simp only [h₁, decide_and, h₂, ← decide_not, Int.not_lt, Nat.pow_succ, Nat.mul_comm]
+    simp only [bool_to_prop]
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1320]:
```suggestion
    simp [h₁, decide_and, h₂, ← decide_not, Int.not_lt, Nat.pow_succ, Nat.mul_comm, bool_to_prop]
```

File: src/Init/Data/Int/LemmasAux.lean [hunk 7]
```diff
@@ -140,4 +140,34 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
   obtain ⟨k, rfl⟩ := hnm
   simp [Int.mul_assoc]
 
+theorem toInt_sub_toInt_lt_twoPow_iff {x y : Int} {k : Nat}
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:143]:
```suggestion
private theorem toInt_sub_toInt_lt_twoPow_iff {x y : Int} {k : Nat}
```

File: src/Init/Data/Int/LemmasAux.lean [hunk 8]
```diff
@@ -140,4 +140,34 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
+  constructor
+  · intros h
+    simp only [show x < 0 by omega, show 0 ≤ y by omega, _root_.true_and]
+    rw_mod_cast [← Int.bmod_add_cancel, Int.bmod_eq_self_of_le (by omega) (by omega)]
+    omega
+  · have := Int.bmod_neg_iff (x := x - y) (m := 2 * k)
+    push_cast at this
+    omega
+
+theorem twoPow_le_toInt_sub_toInt_iff {x y : Int} {k : Nat}
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:158]:
```suggestion
private theorem twoPow_le_toInt_sub_toInt_iff {x y : Int} {k : Nat}
```

File: src/Init/Data/Int/LemmasAux.lean (hunk 7 above)
Comment (bollu) [reply src/Init/Data/Int/LemmasAux.lean:143]: this is a bit too generic :D I was under the impression that we would generalize it to `(x y : BitVec w)`, and write theorems about `x.toInt` and `y.toInt`. 

If we write this theorem with this generality, it feels a bit too "special case" for our purpose: I can't think of anyone reasoning about integers who needs this theorem. So, I'd suggest moving the theorem to `src/Init/Data/BitVec/Bitblast.lean` as a `private theorem.

File: src/Init/Data/Int/LemmasAux.lean (hunk 8 above)
Comment (bollu) [reply src/Init/Data/Int/LemmasAux.lean:158]: See comment above: I think we should move this to `BitVec/Bitblast.lean` since the theorem is a *bit too* special

**Review by bollu — CHANGES_REQUESTED** [review]
I think we should move the `Int` theorems as `private theorem` into `BitVec/Bitblast`, since this is a bit too specialized.

File: src/Init/Data/Int/LemmasAux.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Init/Data/Int/LemmasAux.lean:143]: I see your point! I'd rather write te theorem about `x.toInt` and `y.toInt`, since it seems more usefuil.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -1379,7 +1397,7 @@ theorem not_sub_eq_not_add {x y : BitVec w} : ~~~ (x - y) = ~~~ x + y := by
 /-- The value of `(carry i x y false)` can be computed by truncating `x` and `y`
 to `len` bits where `len ≥ i`. -/
 theorem carry_extractLsb'_eq_carry {w i len : Nat} (hi : i < len)
-    {x y : BitVec w} {b : Bool}: 
+    {x y : BitVec w} {b : Bool}:
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1400]:
```suggestion
    {x y : BitVec w} {b : Bool}: 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -1393,7 +1411,7 @@ theorem carry_extractLsb'_eq_carry {w i len : Nat} (hi : i < len)
 The `[0..len)` low bits of `x + y` can be computed by truncating `x` and `y`
 to `len` bits and then adding.
 -/
-theorem extractLsb'_add {w len : Nat} {x y : BitVec w} (hlen : len ≤ w) : 
+theorem extractLsb'_add {w len : Nat} {x y : BitVec w} (hlen : len ≤ w) :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1414]:
```suggestion
theorem extractLsb'_add {w len : Nat} {x y : BitVec w} (hlen : len ≤ w) : 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -1299,6 +1299,24 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+  rcases w with _|w
+  · revert x y; decide
+  · have := le_two_mul_toInt (x := x); have := two_mul_toInt_lt (x := x)
+    have := le_two_mul_toInt (x := y); have := two_mul_toInt_lt (x := y)
+    simp only [msb_eq_toInt, toInt_sub, Nat.add_one_sub_one, ge_iff_le]
+    have h₁ := BitVec.toInt_sub_toInt_lt_twoPow_iff (x := x) (y := y)
+    have h₂ := BitVec.twoPow_le_toInt_sub_toInt_iff (x := x) (y := y)
+    simp only [Nat.add_one_sub_one] at h₁ h₂
+    simp only [decide_and, ← decide_not, Int.not_lt]
+    simp only [bool_to_prop]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1317]:
```suggestion
  · have h₁ := BitVec.toInt_sub_toInt_lt_twoPow_iff (x := x) (y := y)
    have h₂ := BitVec.twoPow_le_toInt_sub_toInt_iff (x := x) (y := y)
    simp only [Nat.add_one_sub_one] at h₁ h₂
    simp only [Nat.add_one_sub_one, ge_iff_le, msb_eq_toInt, ← decide_not, Int.not_lt, toInt_sub]
    simp only [bool_to_prop]
    omega
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -1299,6 +1299,22 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+  simp only [ssubOverflow]
+  rcases w with _|w
+  · revert x y; decide
+  · have h₁ := BitVec.toInt_sub_toInt_lt_twoPow_iff (x := x) (y := y)
+    have h₂ := BitVec.twoPow_le_toInt_sub_toInt_iff (x := x) (y := y)
+    simp only [Nat.add_one_sub_one] at h₁ h₂
+    simp only [Nat.add_one_sub_one, ge_iff_le, msb_eq_toInt, ← decide_not, Int.not_lt, toInt_sub]
+    simp only [bool_to_prop]
+    omega
+    omega
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1316]:
```suggestion

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -3062,6 +3062,40 @@ theorem sub_def {n} (x y : BitVec n) : x - y = .ofNat n ((2^n - y.toNat) + x.toN
...
+  rcases w with _|w
+  · simp [of_length_zero]
+  · have := le_two_mul_toInt (x := x); have := two_mul_toInt_lt (x := x)
+    have := le_two_mul_toInt (x := y); have := two_mul_toInt_lt (x := y)
+    simp only [Nat.add_one_sub_one]
+    constructor
+    · intros h
+      simp only [show x.toInt < 0 by omega, show 0 ≤ y.toInt by omega, _root_.true_and]
+      rw [← Int.bmod_add_cancel]
+      rw_mod_cast [Int.bmod_eq_self_of_le (by omega) (by omega)]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3076]:
```suggestion
      rw_mod_cast [← Int.bmod_add_cancel, Int.bmod_eq_self_of_le (by omega) (by omega)]
```

**Review by bollu — APPROVED** [review]
LGTM modulo nit!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -3062,6 +3062,39 @@ theorem sub_def {n} (x y : BitVec n) : x - y = .ofNat n ((2^n - y.toNat) + x.toN
...
+  rcases w with _|w
+  · simp [of_length_zero]
+  · have := le_two_mul_toInt (x := x); have := two_mul_toInt_lt (x := x)
+    have := le_two_mul_toInt (x := y); have := two_mul_toInt_lt (x := y)
+    simp only [Nat.add_one_sub_one]
+    constructor
+    · intros h
+      simp only [show 0 ≤ x.toInt by omega, show y.toInt < 0 by omega, _root_.true_and]
+      rw [← Int.bmod_sub_cancel]
+      rw_mod_cast [Int.bmod_eq_self_of_le (by omega) (by omega)]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3092]:
```suggestion
      rw_mod_cast [← Int.bmod_sub_cancel, Int.bmod_eq_self_of_le (by omega) (by omega)]
```

**Review by bollu — APPROVED** [review]
LGTM!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -3062,6 +3062,40 @@ theorem sub_def {n} (x y : BitVec n) : x - y = .ofNat n ((2^n - y.toNat) + x.toN
...
+    have := le_two_mul_toInt (x := y); have := two_mul_toInt_lt (x := y)
+    simp only [Nat.add_one_sub_one]
+    constructor
+    · intros h
+      simp only [show x.toInt < 0 by omega, show 0 ≤ y.toInt by omega, _root_.true_and]
+      rw_mod_cast [← Int.bmod_add_cancel, Int.bmod_eq_self_of_le (by omega) (by omega)]
+      omega
+    · have := Int.bmod_neg_iff (x := x.toInt - y.toInt) (m := 2 ^ (w + 1))
+      push_cast at this
+      omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:3080]:
```suggestion
  rcases w with _|w
  · simp [of_length_zero]
  · have := le_two_mul_toInt (x := x)
    have := two_mul_toInt_lt (x := y)
    simp only [Nat.add_one_sub_one]
    constructor
    · intros h
      rw_mod_cast [← Int.bmod_add_cancel, Int.bmod_eq_self_of_le]
      <;> omega
    · have := Int.bmod_neg_iff (x := x.toInt - y.toInt) (m := 2 ^ (w + 1))
      push_cast at this
      omega
```

I feel like there's some more general `Int.bmod` API that's missing that would imply this result, but I couldn't come up with it, so I guess this is fine as is. I did find a slightly shorter proof with the existing strategy

**Review by alexkeizer — APPROVED** [review]
LGTM

**Comment by luisacicolini** [comment]
awaiting-review
